US07989441B2
A solution/suspension of (S)-2-[(S)-4-benzyloxycarbonyl-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyryl]-3-phenethylcarbamoyl-tetrahydro-pyridazine-1-carboxylic acid benzyl ester (1.13 g) and Pd/C (350 mg, 10% on carbon) in MeOH (15 mL, with 2 drops of acetic acid) in a 1,000 mL round flask is vigorously stirred at room temperature, under hydrogen gas (at atmosphere pressure) from a balloon for 3 hours. After degassed by house vacuum for 10 minutes, the reaction mixture is filtered to remove catalyst and concentrated. The crude product is diluted with CH2Cl2/H2O (10 mL, 8/2) and neutralized with 10% NH4OH to Ph=7. After dried and concentrated, the crude product is purified by chromatography (CH2Cl2/MeOH:97/3) to give (S)-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-5-oxo-5-((S)-6-phenethylcarbamoyl-tetrahydro-pyridazin-1-yl)-pentanoic acid (0.74 g, 95.3%) as pale solid. (NMR and MS data confirmed, U-3133-63).

reactant | (S)-2-[(S)-4-benzyloxycarbonyl-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyryl]-3-phenethylcarbamoyl-tetrahydro-pyridazine-1-carboxylic acid benzyl ester | 1.13 g | C(C1=CC=CC=C1)OC(=O)N1N([C@@H](CCC1)C(NCCC1=CC=CC=C1)=O)C([C@H](CCC(=O)OCC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O)=O | C41H40N4O8
catalyst | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 350 mg | [Pd] | Pd
product | (S)-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-5-oxo-5-((S)-6-phenethylcarbamoyl-tetrahydro-pyridazin-1-yl)-pentanoic acid | 0.74 g, 95.3% | O=C1N(C(C2=CC=CC=C12)=O)[C@@H](CCC(=O)O)C(N1NCCC[C@H]1C(NCCC1=CC=CC=C1)=O)=O | C26H28N4O6
